US04069321
25-Fluoro-4,6-cholestadiene-1α,3β-diol (0.005 mole) prepared according to 3B above is dissolved in 100 ml. of a 1:1 solvent mixture of tetrahydrofuran and liquid ammonia and stirred at reflux using a dry-ice condenser with 0.4 gm. of finely divided lithium for 1.0 hour. The liquid ammonia is allowed to evaporate and 10 ml. of water is added. The tetrahydrofuran is evaporated at room temperature under high vacuum. The organics are extracted from the water three times with 50 ml. of chloroform. The chloroform extracts are combined, dried (magnesium sulfate) and the solvent is removed to give crude 25-fluoro-1α-hydroxycholest-5-ene. 25-Fluoro-1α-hydroxycholest-5-ene can be purified by chromatographing the crude product on a silica gel column using a solvent of petroleum ether and diethyl ether.

reactant | 25-Fluoro-4,6-cholestadiene-1α,3β-diol | 0.005 mole | FC(C)(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3C=CC4=C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O)O | C27H43FO2
reactant | ammonia | N | H3N
reactant | lithium | [Li] | Li
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 25-fluoro-1α-hydroxycholest-5-ene | FC(C)(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4CCC[C@@H]([C@]4(C)[C@H]3CC[C@]12C)O | C27H45FO
